US09328117B2
A mixture of compound 3-chloro-6-hydrazinylpyridazine (8.85 g, 0.061 mol) and ethyl glyoxalate (6.16 g, 0.061 mol) in 50 mL of methanol containing about 30% acetic acid was stirred at room temperature for 2 h. The yielded solid was collected by filtration and washed with methanol to give product 1-ethoxycarbonylmethylene-2-(6-chloro-3-pyridazinyl) hydrazine as a white solid (9.5 g, 68%). LRMS (M+H+) m/z: calcd 229.03; found 229. 1H NMR (300 MHz, CDCl3): δ 12.40 (s, 1H), 7.80-7.31 (d, J=9.6 Hz, 1H), 7.60-7.56 (d, J=9.3 Hz, 1H), 7.50 (s, 1H), 4.25-4.23 (q, 2H), 1.31-1.26 (t, 3H).

reactant | 3-chloro-6-hydrazinylpyridazine | 0.061 mol, 8.85 g | ClC=1N=NC(=CC1)NN | C4H5ClN4
reactant | ethyl glyoxalate | 0.061 mol, 6.16 g | C(C=O)(=O)OCC | C4H6O3
solvent | methanol | 50 mL | CO | CH4O
product | 1-ethoxycarbonylmethylene-2-(6-chloro-3-pyridazinyl) hydrazine | 9.5 g, 68% | C(C)OC(=O)C=NNC=1N=NC(=CC1)Cl | C8H9ClN4O2
